US07410986B2
To a stirred solution of N-{3-[2-amino-6-(2-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-3-cyano-4-pyridinyl]-phenyl}-3-(1-piperidinyl)propanamide (0.150 g, 0.270 mmol) in 1,4-dioxane (5 mL) was added 4N HCl in dioxane (2 mL). The mixture was stirred at room temperature for 12 hrs. The resulting precipitate was collected by filtration, washed with ethanol, and dried under reduced pressure to give N-{3-[2-amino-3-cyano-6-(2-hydroxyphenyl)-4-pyridinyl]phenyl}-3-(1-piperidinyl)propanamide hydrochloride (0.011 g, yield 9%).

reactant | N-{3-[2-amino-6-(2-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-3-cyano-4-pyridinyl]-phenyl}-3-(1-piperidinyl)propanamide | 0.270 mmol, 0.150 g | NC1=NC(=CC(=C1C#N)C=1C=C(C=CC1)NC(CCN1CCCCC1)=O)C1=C(C=CC=C1)O[Si](C)(C)C(C)(C)C | C32H41N5O2Si
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-{3-[2-amino-3-cyano-6-(2-hydroxyphenyl)-4-pyridinyl]phenyl}-3-(1-piperidinyl)propanamide hydrochloride | 0.011 g, yield 9% | Cl.NC1=NC(=CC(=C1C#N)C=1C=C(C=CC1)NC(CCN1CCCCC1)=O)C1=C(C=CC=C1)O | InChI=1S/C26H27N5O2.ClH/c27-17-22-21(16-23(30-26(22)28)20-9-2-3-10-24(20)32)18-7-6-8-19(15-18)29-25(33)11-14-31-12-4-1-5-13-31;/h2-3,6-10,15-16,32H,1,4-5,11-14H2,(H2,28,30)(H,29,33);1H
